US04798893
A. 1-[5-Hydroxy-2-(phenylethynyl)phenyl]-2-propanone (Formula (I): R1, R2, R3 =H, Ar1 =phenyl)
3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5-(3H,4H)-dione, the product of Example 1A, (1.5 g, 5 mmole) was dissolved in MeOH (50 mL) and water (10 mL). Anhydrous potassium carbonate 7.1 g, 50 mmole) was added and the mixture was heated at reflux for 45 min. The reaction was quenched into ice cold 3N hydrochloric acid and extracted with EtOAc (3×50 mL). The combined extracts were washed with water (50 mL) and brine (2×50 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash column chromatography (silica gel; 3:1::hexane:EtOAc) to give 0.84 g (65%) of the title compound as a light brown crystalline solid.

reactant | 3-Acetyl-3a,7a-dihydro-7a-(phenylethynyl)benzofuran-2,5-(3H,4H)-dione | C(C)(=O)C1C(OC2(C1CC(C=C2)=O)C#CC2=CC=CC=C2)=O | C18H14O4
reactant | potassium carbonate | 50 mmole, 7.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-[5-Hydroxy-2-(phenylethynyl)phenyl]-2-propanone | 0.84 g, 65% | OC=1C=CC(=C(C1)CC(C)=O)C#CC1=CC=CC=C1 | C17H14O2
